US08530648B2
e) tert-butyl 1-oxo-2,9-diazaspiro[5.5]undecane-9-carboxylate
A heterogeneous mixture of Raney Ni (5.0 g) in ethanolic ammonia (˜20% v/v) and 1-tert-butyl 4-ethyl 4-(2-cyanoethyl)piperidine-1,4-dicarboxylate (8.5 g, 27.42 mmol) was hydrogenated at 100 psi for 48 h at rt in an autoclave. After completion of the reaction, the catalyst was filtered off and washed with ethanol. The combined filtrate was concentrated under reduced pressure and triturated with n-pentane to yield a solid which was purified by column chromatography (eluent=6% methanol in chloroform) to furnish the title compound as a white solid (3.0 g, 41%). [1H-NMR (DMSO-d6, 300 MHz): δ 7.38 (s, 1H), 3.68-3.60 (m, 2H), 3.18-2.95 (m, 4H), 1.89-1.58 (m, 4H), 1.45-1.22 (m, 13H); HPLC RtA=3.835 min (96%); LCMS RtA=1.630, [M+H-Boc]+=169.1].

reactant | 1-tert-butyl 4-ethyl 4-(2-cyanoethyl)piperidine-1,4-dicarboxylate | 27.42 mmol, 8.5 g | C(#N)CCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C16H26N2O4
solvent | ammonia | N | H3N
catalyst | Ni | 5.0 g | [Ni] | Ni
product | tert-butyl 1-oxo-2,9-diazaspiro[5.5]undecane-9-carboxylate | 3.0 g, 41% | O=C1NCCCC12CCN(CC2)C(=O)OC(C)(C)C | C14H24N2O3
